US07704995B2
To a solution of 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-one (0.81 g, 4.5 mmol) in MeOH (15.0 mL), was added NaBH4 (0.19 g, 4.5 mmol) in one portion. After stirring for 10 min at r.t., the solution was concentrated in vacuo. The residue was taken up in EtOAc (100 mL), and this solution was washed with saturated NaHCO3 (aq) (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to give 0.64 g (73% yield) of 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-ol as a white solid, which was used without further purification: 1H NMR (400 MHz, CDCl3): 7.23 (m, 2H), 6.97 (t, 1H), 5.15 (dd, 1H), 4.37 (q, 1H), 3.17 (d, 1H), 2.40 (d, 1H).

reactant | 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-one | 4.5 mmol, 0.81 g | N(=[N+]=[N-])C1C(C2=CC=CC(=C2C1)F)=O | C9H6FN3O
reactant | NaBH4 | 4.5 mmol, 0.19 g | [BH4-].[Na+]
solvent | MeOH | 15.0 mL | CO | CH4O
product | 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-ol | 0.64 g, 73% yield | N(=[N+]=[N-])C1C(C2=CC=CC(=C2C1)F)O | C9H8FN3O
